US07696240B2
Using general procedure A (Exp. 1.2.), 6-chloro-4-methyl-1,2-dihydro-naphthalene was reacted with 3,4,5,6-tetrachloro-1,2-benzoquinone to give 7-chloro-1-methyl-naphthalene as a colorless oil.

reactant | 6-chloro-4-methyl-1,2-dihydro-naphthalene | ClC=1C=C2C(=CCCC2=CC1)C | C11H11Cl
reactant | 3,4,5,6-tetrachloro-1,2-benzoquinone | ClC=1C(C(C(=C(C1Cl)Cl)Cl)=O)=O | C6Cl4O2
product | 7-chloro-1-methyl-naphthalene | ClC1=CC=C2C=CC=C(C2=C1)C | C11H9Cl
